US06627755B1
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.10 g, 0.33 mmol), 2-fluoroaniline (0.064 mL, 0.66 mmol) and acetic acid (0.038 mL, 0.66 mmol) in methanol (10 mL) was stirred 1.5 hours at ambient temperature. Sodium cyanoborohydride (0.083 g, 1.32 mmol) was added and the reaction was stirred overnight. The reaction was diluted with water and concentrated to remove most of the methanol. The milky white liquid residue was treated with saturated aqueous bicarbonate and extracted with ethyl acetate. The organic layer was washed with aqueous bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (20 g) eluting the product with 5% and then 10% ethyl acetate/hexane. In this fashion 0.10 g (76%) of 3-(2-chloro-phenyl)-6-fluoro-2-[(2-fluoro-phenylamino)-methyl]-3H-quinazolin-4-one was isolated as a yellow foam which had: 1H NMR δ 7.95 (dd, J=3, 8.5 Hz, 1H), 7.85 (dd, J=5, 9 Hz, 1H), 7.69 (dd, J=2, 7.5 Hz, 1H), 7.63-7.46 (m, 3H), 7.43-7.37 (m, 1H), 7.05-6.90 (m, 2H), 6.70-6.62 (m, 1H), 6.43 (dt, J=1, 9 Hz, 1H), 5.30 (br s, 1H), 3.91 (ABq, Δv1-3=27.5 Hz, J=17 Hz, 2H). Analysis calculated for C21H14ClF2N3O•0.25 H2O: C, 62.70; H, 3.63; N, 10.44. Found: C, 62.78; H, 3.51; N, 10.29.

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.33 mmol, 0.10 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | 2-fluoroaniline | 0.66 mmol, 0.064 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | acetic acid | 0.66 mmol, 0.038 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 1.32 mmol, 0.083 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 3-(2-chloro-phenyl)-6-fluoro-2-[(2-fluoro-phenylamino)-methyl]-3H-quinazolin-4-one | 0.10 g, 76% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNC1=C(C=CC=C1)F | C21H14ClF2N3O
